data/oMe_Silver.jsonl
{"reaction_id": "NR-317_1-c1ccc(c2ccccc2)cc1_2-CCn1c2ccccc2c2cc(ccc12)","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["c1ccc(c2ccccc2)cc1[Mg]Br","CON(C)C(=O)(CCn1c2ccccc2c2cc(ccc12))","O"],"products_smiles": ["C(=O)(c1ccc(c2ccccc2)cc1)(CCn1c2ccccc2c2cc(ccc12))"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(c2ccccc2)cc1C(CCn1c2ccccc2c2cc(ccc12))(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(c2ccccc2)cc1)(O)(CCn1c2ccccc2c2cc(ccc12))N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(c2ccccc2)cc1)(O)(CCn1c2ccccc2c2cc(ccc12))[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(c1ccc(c2ccccc2)cc1)(CCn1c2ccccc2c2cc(ccc12))","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
{"reaction_id": "NR-326_1-c1ccc(Cl)cc1_2-c1ccc(F)cc1","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(=O)C(=[N+]=[N-])c1ccc(F)cc1"],"products_smiles": ["O=C=C(c1ccc(F)cc1)c1ccc(Cl)cc1"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Cl)cc1)(=O)[C]c1ccc(F)cc1","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(c1ccc(F)cc1)c1ccc(Cl)cc1","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of c1ccc(Cl)cc1 to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
